US08119663B2
Methyl 5-(3,4-dimethylphenyl)pyridine-3-carboxylate
11.0 g (50.1 mmol) of methyl 5-bromonicotinate and 7.7 g (50.1 mmol) of 3,4-dimethylphenylboronic acid were reacted according to the General Method 1A. Yield: 4.0 g (31% of theory)

reactant | methyl 5-bromonicotinate | 50.1 mmol, 11.0 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | 3,4-dimethylphenylboronic acid | 50.1 mmol, 7.7 g | CC=1C=C(C=CC1C)B(O)O | C8H11BO2
product | Methyl 5-(3,4-dimethylphenyl)pyridine-3-carboxylate | CC=1C=C(C=CC1C)C=1C=C(C=NC1)C(=O)OC | C15H15NO2
